US04374991
To a stirred solution of cyclohexanecarboxaldehyde (100 g.; 0.89 mole) and 50% potassium hydroxide solution (10.2 g.) is added, dropwise, acrylonitrile (50.4 g.; 0.95 mole) over the course of one hour, maintaining the reaction temperature between 50°-60° C. by occasional cooling. After all has been added, the mixture is stirred for an additional one hour until the exotherm ceases and then heated to 50°-60° C. for 30 minutes. The product is acidified with dilute hydrochloric acid, taken up into ether, washed with water, dried (MgSO4) and distilled to afford 38% of colorless 1-(2-cyanoethyl)-1-formylcyclohexane (55.4 g.), b.p. 142°-146° C./5 mm.

reactant | cyclohexanecarboxaldehyde | 0.89 mole, 100 g | C1(CCCCC1)C=O | C7H12O
reactant | potassium hydroxide | 10.2 g | [OH-].[K+]
reactant | acrylonitrile | 0.95 mole, 50.4 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(2-cyanoethyl)-1-formylcyclohexane | 55.4 g, 38% | C(#N)CCC1(CCCCC1)C=O | C10H15NO
